US05643950
To 3,3,3-triphenylpropanol (2.00 g, 6.93 mmol), triphenylphosphine (6.93 mmol), and 3-(benzenesulfonyloxy)phenol (1.74 g, 6.93 mmol) in benzene (10 mL), was added DEAD (6.93 mmol) in benzene (10 mL). The reaction was heated at 60° C. for 16 hours. After cooling, the volatiles were evaporated and the residue chromatographed on a silica gel column using 1:1 dichloromethane/hexanes. Recrystallization from ether afforded 3-(3,3,3-triphenylpropoxy)phenyl benzenesulfonate as a white solid, mp=124°-125° C., in 75% yield. 1H NMR (CDCl3) δ 7.77-7.80 (m, 2H), 7.41-7.56 (m, 2H), 7.18-7.32 (m, 16H), 7.08 (t, J=8.2 Hz, 1H), 6.51-6.59 (m, 2H), 6.21 (t, J=2.3 Hz, 1H), 3.55 (t, J=7.7 Hz, 2H), 3.05 (t, J=7.7 Hz, 2H). IR 3056, 1612, 1582, 1491 cm-1. MS 538 (M+NH4)+, 521 (MH+), 243. Anal. calcd. for C33H28O4S: C, 76.13; H, 5.42. Found: C, 75.58; H, 5.50. Potassium hydroxide (4.69 g, 0.084 mol) in water (6 mL) and methanol (30 mL) was added to this material (17.4 g, 0.033 mol) in methanol (80 mL). The reaction was heated at 50° C. for 20 hours, cooled, and poured into water (150 mL), and acidified to pH=1 with concentrated HCl. This was extracted with several portions of ether. The combined ethereal layers were washed with water, dried, filtered and evaporated to afford 3-(3,3,3-triphenylpropoxy)phenol as a white amorphous solid, in 96% yield. 1H NMR (CDCl3) δ 7.10-7.33 (m, 15H), 7.04 (t, J=8.1 Hz, 1H), 6.34 (dt, J=8.0, 1.0 Hz, 1H), 6.29 (dd, J=2.1, 8.5 Hz, 1H), 6.16 (t, J=2.3 Hz, 1H), 4.65 (s, 1H), 3.67-3.74 (m, 2H), 3.12 (t, J=7.8 Hz, 2H). IR 3200-3500 (br), 1595, 1492 cm-1. MS (FAB) 381 (MH+), 243. Anal. calcd. for C27H24O2.0.25H2O: C, 84.23; H, 6.41. Found: C, 84.26; H, 6.66. To the above phenol (2.59 mmol) in acetone (15 mL), was added potassium carbonate (5.18 mmol) and methyl bromoacetate (2.75 mmol). The reaction was heated at reflux overnight. After cooling, the reaction was filtered through a pad of Celite. The resulting flitrate was evaporated and the residue dissolved in methylene chloride. This was washed with water, dried (MgSO4), filtered and evaporated to afford methyl 3-(3,3,3-triphenylpropoxy)phenoxyacetate. White solid, mp=103°-105° C. (ether), 85%yield. 1H NMR (CDCl3) δ 7.17-7.33 (m, 15H), 7.09 (t, J=8.2 Hz, 1H), 6.29-6.43 (m, 3H), 4.57 (s, 2H), 3.79 (s, 3H), 3.70 (t, J=7.7 Hz, 2H), 3.12 (t, J=7.7 Hz, 2H). IR 1768, 1602, 1152 cm-1. MS 453 (MH+), 243. Anal. calcd. for C30H28O4.0.2H2O: C, 78.99; H, 6.28. Found: C, 79.04; H, 6.18. The hydrolysis of the ester to the acid was performed as described in example 12, providing the title compound as a white solid, mp 69°-71 ° C., in 89% yield. 1H NMR (CDCl3) δ 7.15-7.30 (m, 15H), 6.95 (t, J=8.2 Hz, 1H), 6.25-6.35 (m, 3H), 4.40 (s, 2H), 3.74 (t, J=7.7 Hz, 2H), 3.05 (t, J=7.7 Hz, 2H). IR 3000-3200 (br), 1719, 1595 cm-1. MS 439 (MH+), 243. Anal. calcd. for C29H26O4.0.7H2O: C, 77.21; H, 6.12. Found: C, 77.04; H, 5.88.

reactant | 3,3,3-triphenylpropanol | 6.93 mmol, 2.00 g | C1(=CC=CC=C1)C(CCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H20O
reactant | triphenylphosphine | 6.93 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(benzenesulfonyloxy)phenol | 6.93 mmol, 1.74 g | C1(=CC=CC=C1)S(=O)(=O)OC=1C=C(C=CC1)O | C12H10O4S
reactant | DEAD | 6.93 mmol | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 3-(3,3,3-triphenylpropoxy)phenyl benzenesulfonate | 75% yield | C1(=CC=CC=C1)S(=O)(=O)OC1=CC(=CC=C1)OCCC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H28O4S
